US04948887
(3) 3-acetoxymethyl-2-chloro-4-methanesulfonylbenzoic acid
1.3 g of 2-chloro-3-hydroxymethyl-4-methanesulfonyl benzoic acid and 30 ml of acetic anhydride, was refluxed for 3 hours under heating. The reaction mixture was concentrated under reduced pressure. Then, 50 ml of water was added thereto and warmed for 1 hour. Precipitated solid was collected by filtration, washed with water and dried to obtain 1.35 g of the desired product. Melting point: 219°-223° C.

reactant | 2-chloro-3-hydroxymethyl-4-methanesulfonyl benzoic acid | 1.3 g | ClC1=C(C(=O)O)C=CC(=C1CO)S(=O)(=O)C | C9H9ClO5S
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetoxymethyl-2-chloro-4-methanesulfonylbenzoic acid | 1.35 g | C(C)(=O)OCC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)Cl | C11H11ClO6S
